US08735579B2
5-tert-butyl-3-methanesulphonyl-2-methoxy-aniline
A mixture of 14.5 g 5-tert-butyl-1-methanesulphonyl-2-methoxy-3-nitro-benzene, 3.0 g 10% palladium on charcoal and 250 ml of methanol is shaken for 6 h at ambient temperature under a hydrogen atmosphere (50 psi). Then the catalyst is filtered off and the filtrate is evaporated to dryness.

reactant | 5-tert-butyl-1-methanesulphonyl-2-methoxy-3-nitro-benzene | 14.5 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)C)OC)[N+](=O)[O-] | C12H17NO5S
catalyst | palladium on charcoal | 3.0 g | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 5-tert-butyl-3-methanesulphonyl-2-methoxy-aniline | C(C)(C)(C)C=1C=C(C(=C(N)C1)OC)S(=O)(=O)C | C12H19NO3S
